US07291631B2
(R)-(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine (0.40 g, 1.50 mmol), 2-bromomethyl-5-cyano-benzoic acid methyl ester (0.40 g, 1.57 mmol) and K2CO3 (0.58 g, 4.50 mmol) in CH3CN (10 mL) were reacted according to General Procedure A. The crude 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8yl)-amino]-methyl}-benzoic acid methyl ester was isolated as an orange-brown oil (0.68 g, 100%) and used without purification in the next step of the synthesis.

reactant | (R)-(3,5-Dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amine | 1.50 mmol, 0.40 g | CC=1C(=NC=C(C1)C)CN[C@@H]1CCCC=2C=CC=NC12 | C17H21N3
reactant | 2-bromomethyl-5-cyano-benzoic acid methyl ester | 1.57 mmol, 0.40 g | COC(C1=C(C=CC(=C1)C#N)CBr)=O | C10H8BrNO2
reactant | K2CO3 | 4.50 mmol, 0.58 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
product | 5-cyano-2-{[(3,5-dimethyl-pyridin-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8yl)-amino]-methyl}-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)C#N)CN(C1CCCC=2C=CC=NC12)CC1=NC=C(C=C1C)C)=O | C27H28N4O2
